US09168259B2
To a solution of 700 mg (2.6 mmol) 2-chloro-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester and 1.39 g (3.9 mmol) tributyl(3-methoxyprop-1-ynyl)stannane in dioxane (10 ml) was added 273 mg (0.39 mmol) PdCl2(PPh3)2. Then the reaction solution was heated at 100° C. for 16 h. After cooling to RT the mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was dissolved in EtOAc and washed with water. The organic layer was dried over Na2SO4 and concentrated in vacuo. Purification of the residue by CC (5% KF-silica, hexane/EtOAc 19:1) provided 500 mg (1.64 mmol, 63%) 2-(3-methoxyprop-1-ynyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester.

reactant | 2-chloro-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester | 2.6 mmol, 700 mg | COC(=O)C=1C(=NC(=CC1C)N1CCOCC1)Cl | C12H15ClN2O3
reactant | tributyl(3-methoxyprop-1-ynyl)stannane | 3.9 mmol, 1.39 g | C(CCC)[Sn](C#CCOC)(CCCC)CCCC
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.39 mmol, 273 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3-methoxyprop-1-ynyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester | 1.64 mmol, 500 mg, 63% | COC(=O)C=1C(=NC(=CC1C)N1CCOCC1)C#CCOC | C16H20N2O4
